US08278335B2
Step 2: 5-Amino-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxamide
5-Amino-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxylic acid (310 mg, 1.01 mmol), 1-hydroxybenzotriazole (310 mg, 2.02 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (388 mg, 2.02 mmol), and ammonium chloride (271 mg, 5.06 mmol) were taken up in dimethylformamide (20 mL) under argon. Diisopropylethylamine (0.88 mL, 5.06 mmol) was added and the mixture was stirred at ambient temperature for 36 hours. The mixture was then concentrated in vacuo. The resulting residue was purified via flash chromatography (silica, 0-10% methanol/ethyl acetate) to afford the title compound. LRMS (APCI) calc'd for (C13H16N5O2S) [M+H]+, 306.1; found 306.0.

reactant | 5-Amino-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxylic acid | 1.01 mmol, 310 mg | NC1=C(N=C(S1)C=1C=NC(=CC1)N1CCOCC1)C(=O)O | C13H14N4O3S
reactant | 1-hydroxybenzotriazole | 2.02 mmol, 310 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.02 mmol, 388 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonium chloride | 5.06 mmol, 271 mg | [Cl-].[NH4+]
reactant | Diisopropylethylamine | 5.06 mmol, 0.88 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-Amino-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxamide | NC1=C(N=C(S1)C=1C=NC(=CC1)N1CCOCC1)C(=O)N | C13H15N5O2S
